US07129249B2
3-Amino-1-(2,2-dimethyl-1,3-dioxolan-4-ylmethyl)-3,4-dihydroquinolin-2(1H)-one
Sodium hydride (60% in oil, 191 mg, 4.70 mmol) was added to 3-amino-3,4-dihydroquinolin-2(1H)-one hydrochloride (J. Med. Chem., 28, 1985; 1511–16,450 mg, 2.27 mmol), in anhydrous DMF (6 mL) at 0° C. over a period of 5 min keeping the internal temperature at <10° C. The reaction was stirred for a further 30 min before addition of (2,2-dimethyl-1,3-dioxolan-4-yl)methyl methanesulfonate (J. Med. Chem. 35, 1992, 1650–62; 528 mg, 2.50 mmol) and the reaction has then heated to 80° C. for a period of 5 h. The reaction was then cooled and evaporated before addition of sat. aqueous NaHCO3 (20 mL) and EtOAc (50 mL). The organic layer was then dried (MgSO4), filtered and evaporated and the residue was purified by column chromatography (MeOH:DCM 1:19) to afford the title compound (330 mg, 53%) as colourless oil.

reactant | Sodium hydride | 4.70 mmol, 191 mg | [H-].[Na+]
reactant | 3-amino-3,4-dihydroquinolin-2(1H)-one hydrochloride | 2.27 mmol, 1511–16,450 mg | Cl.NC1C(NC2=CC=CC=C2C1)=O
reactant | (2,2-dimethyl-1,3-dioxolan-4-yl)methyl methanesulfonate | 2.50 mmol, 528 mg | CS(=O)(=O)OCC1OC(OC1)(C)C | C7H14O5S
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 3-Amino-1-(2,2-dimethyl-1,3-dioxolan-4-ylmethyl)-3,4-dihydroquinolin-2(1H)-one | 330 mg, 53% | NC1C(N(C2=CC=CC=C2C1)CC1OC(OC1)(C)C)=O | C15H20N2O3
